US06369273B1
(R)-N-[2-Chloro-4-(2-nitrophenylthio)phenyl]-2-hydroxy-2-methyl-3,3.3-trifluoropropanamide
A mixture of (R)-N-(2-chloro-4-mercaptophenyl)-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide (0.1 g), 1-iodo-2-nitrobenzene (0.086 g), sodium methoxide (0.021 g), and cuprous chloride (0.014 g) in DMF (1 ml) was stirred and heated to 135° C. for 2.5 hours then allowed to cool to room temperature. The reaction mixture was diluted with water (5 ml) and poured onto a Varian Chem Elut column. When the liquid had been adsorbed the column was eluted with ethyl acetate and the eluate was concentrated by evaporation. The residue was purified on a silica gel Mega Bond Elut column, eluting with 5-40% ethyl acetate/hexane to give the title compound (0.085 g) as a glass. MS: 419 (M−H)−.

reactant | (R)-N-(2-chloro-4-mercaptophenyl)-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide | 0.1 g | ClC1=C(C=CC(=C1)S)NC([C@@](C(F)(F)F)(C)O)=O | C10H9ClF3NO2S
reactant | 1-iodo-2-nitrobenzene | 0.086 g | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | sodium methoxide | 0.021 g | C[O-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
product | (R)-N-[2-Chloro-4-(2-nitrophenylthio)phenyl]-2-hydroxy-2-methyl-3,3.3-trifluoropropanamide | 0.085 g | ClC1=C(C=CC(=C1)SC1=C(C=CC=C1)[N+](=O)[O-])NC([C@@](C(F)(F)F)(C)O)=O | C16H12ClF3N2O4S
